US08633175B2
A mixture of 3′-[(2-chloroethyl)oxy]-4-biphenylcarboxamide and 3′-[(2-bromoethyl)oxy]-4-biphenylcarboxamide (Example II-1) (0.15 g), 4,4-dimethylcyclohexylamine hydrochloride (0.13 g, 0.8 mmol) (prepared according to J. Med. Chem. 1971, 14, p. 600-614) and triethylamine (0.14 g, 1.35 mmol) in methanol (2 mL) was placed in a microwave at 160° C. until the reaction was complete as monitored by LC/MS. The reaction mixture was poured into ethyl acetate and washed several times with 5% Na2CO3 (aq). Silica gel was added to the organic phase and the mixture was concentrated in vacuo. The residue was purified by silica gel chromatography. The fractions containing the desired product were combined and concentrated in vacuo. Dissolved the residue in ethanol, added 1.0N HCl in Et2O until acidic, added ethyl ether until turbid and let stand at room temperature. The resulting solid was filtered, washed with ethyl ether and dried to give 3′-({2-[(4,4-dimethylcyclohexyl)amino]ethyl}oxy)-4-biphenylcarboxamide hydrochloride as an off-white solid. (M+H) 367, 1.83 min. (LC/MS method A)

reactant | 3′-[(2-chloroethyl)oxy]-4-biphenylcarboxamide | ClCCOC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N | C15H14ClNO2
reactant | 3′-[(2-bromoethyl)oxy]-4-biphenylcarboxamide | 0.15 g | BrCCOC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N | C15H14BrNO2
reactant | 4,4-dimethylcyclohexylamine hydrochloride | 0.8 mmol, 0.13 g | Cl.CC1(CCC(CC1)N)C
reactant | triethylamine | 1.35 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3′-({2-[(4,4-dimethylcyclohexyl)amino]ethyl}oxy)-4-biphenylcarboxamide hydrochloride | Cl.CC1(CCC(CC1)NCCOC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N)C | InChI=1S/C23H30N2O2.ClH/c1-23(2)12-10-20(11-13-23)25-14-15-27-21-5-3-4-19(16-21)17-6-8-18(9-7-17)22(24)26;/h3-9,16,20,25H,10-15H2,1-2H3,(H2,24,26);1H
